US08008303B2
{4′-[4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-yl}-carbamic acid tert-butyl ester
A mixture of 5′-tert-butoxycarbonylamino-2′-methyl-biphenyl-4-carboxylic acid (500 mg), 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl) -phenylamine (367 mg), triethylamine (0.64 ml) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (869 mg) in dry DMF (20 ml) was stirred at 20 C for 118 h. The mixture was then partitioned between water and dichloromethane. The dried extracts were evaporated and the residue purified on silica gel. Elution with ethyl acetate:petrol; 1:1 removed high Rf impurities and further elution with ethyl acetate gave the title compound as a pale yellow solid (693 mg).

reactant | 5′-tert-butoxycarbonylamino-2′-methyl-biphenyl-4-carboxylic acid | 500 mg | C(C)(C)(C)OC(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)C | C19H21NO4
reactant | 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl) -phenylamine | 367 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
reactant | triethylamine | 0.64 ml | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 869 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | {4′-[4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-yl}-carbamic acid tert-butyl ester | 693 mg | C(C)(C)(C)OC(NC=1C=C(C(=CC1)C)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCS(CC1)(=O)=O)=O)=O | C30H35N3O5S
